US09227923B2
4-[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoro propan-2-yl)-6-methylphenyl]benzamide (0.80 g) was dissolved in ethanol (20 ml). To the solution, hydrazine monohydrate (0.28 g) was added and the mixture was stirred under heating at 60° C. for 4 hours. After adjusting to room temperature, the reaction solution was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with a saturated sodium bicarbonate solution and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain 4-(aminomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl] benzamide as a crude product (0.63 g). Without further purification, the crude product was used for the next reaction.

reactant | 4-[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoro propan-2-yl)-6-methylphenyl]benzamide | 0.80 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C28H21F7N2O3
reactant | hydrazine monohydrate | 0.28 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(aminomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl] benzamide | NCC1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C20H19F7N2O
